US07612075B2
A. 6-Chlorobenzo[b]thiophene-2-carboxaldehyde.
To a solution of 6-chlorobenzo[b]thiophene (1.0 g, 5.93 mmol) in THF (60 mL) at −78° C. is added a 1.6 M solution of n-BuLi in THF (3.9 mL, 6.23 mmol). After 10 minutes, 0.5 mL of DMF is added. The solution is stirred for 0.5 hours, then allowed to warm to ambient temperature. The solution is poured into a solution of saturated NH4Cl. The solution is diluted with ether and the layers are separated. The organic layer is washed with H2O and saturated NaCl. The organic layer is dried over MgSO4, filtered and concentrated. The title compound is obtained as a white solid. MS (EI): m/z 196 (M+).

reactant | 6-chlorobenzo[b]thiophene | 5.93 mmol, 1.0 g | ClC=1C=CC2=C(SC=C2)C1 | C8H5ClS
reactant | n-BuLi | [Li]CCCC
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | THF | 6.23 mmol, 3.9 mL | C1CCOC1 | C4H8O
product | 6-Chlorobenzo[b]thiophene-2-carboxaldehyde | ClC=1C=CC2=C(SC(=C2)C=O)C1 | C9H5ClOS
